US04215044
Following the general procedure of Part A, 2.4 g of 7-trifluoromethyl-1,3-dihydro-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one was reacted with trimethylchlorosilane. The filtrate was evaporated, the residue was dissolved in CFCl3 and the CFCl3 was removed by evaporation to give 7-trifluoromethyl-1-methyl-5-phenyl-2-trimethylsiloxy-1H-1,4-benzodiazepin which was again dissolved in CFCl3 and reacted with trifluoromethyl hypofluorite to give 7-trifluoromethyl-3-fluoro-1,3-dihydro-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one whose measured mass spectrum was m/c 336.0859; Calculated for C17H12ON2F4 : 336.0885.

reactant | 7-trifluoromethyl-1,3-dihydro-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one | 2.4 g | FC(C=1C=CC2=C(C(=NCC(N2C)=O)C2=CC=CC=C2)C1)(F)F | C17H13F3N2O
reactant | trimethylchlorosilane | C[Si](Cl)(C)C | C3H9ClSi
product | 7-trifluoromethyl-1-methyl-5-phenyl-2-trimethylsiloxy-1H-1,4-benzodiazepin | FC(C=1C=CC2=C(C(=NC=C(N2C)O[Si](C)(C)C)C2=CC=CC=C2)C1)(F)F | C20H21F3N2OSi
